US08084614B2
To 4-chloro-2-methoxy-5-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-benzoyl chloride (70 mg, 0.19 mmol) in DCM (0.5 mL) were added triethylamine (39 μL, 0.28 mmol) and 2,6-dimethylaniline (28 μL, 0.22 mmol). The mixture was stirred at rt for 12 hrs and was purified via a prep TLC plate eluting with ethyl acetate in hexane (30%) to give 4-chloro-5-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-N-(2,6-dimethyl-phenyl)-2-methoxy-benzamide (55.0 mg). MS [M+H]+ 460.2; tR=2.85 min (method 1)

reactant | 4-chloro-2-methoxy-5-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-benzoyl chloride | 0.19 mmol, 70 mg | ClC1=CC(=C(C(=O)Cl)C=C1C=1C=NC(=CC1C#N)C(F)(F)F)OC | C15H7Cl2F3N2O2
reactant | triethylamine | 0.28 mmol, 39 μL | C(C)N(CC)CC | C6H15N
reactant | 2,6-dimethylaniline | 0.22 mmol, 28 μL | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-5-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-N-(2,6-dimethyl-phenyl)-2-methoxy-benzamide | 55.0 mg | ClC1=CC(=C(C(=O)NC2=C(C=CC=C2C)C)C=C1C=1C=NC(=CC1C#N)C(F)(F)F)OC | C23H17ClF3N3O2
